US08012974B2
To a solution of compound 4-methyl-5-oxo-azepane-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (2.5 g, 8.36 mmol) in dioxane (20 mL) was added 2 M aqueous KOH (20 mL) at 25° C. The resulting solution was stirred at 100° C. for 24 hours before being cooled to RT and extracted twice with EtOAC. The combined organic layers were dried (Na2SO4), filtered, and evaporated to give 1.8 g of 4-methyl-5-oxo-azepane-1-carboxylic acid tert-butyl ester (95% yield).

reactant | 4-methyl-5-oxo-azepane-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 8.36 mmol, 2.5 g | C(C)OC(=O)C1(CCN(CCC1=O)C(=O)OC(C)(C)C)C | C15H25NO5
reactant | KOH | 2 M, 20 mL | [OH-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 4-methyl-5-oxo-azepane-1-carboxylic acid tert-butyl ester | 1.8 g, 95% yield | C(C)(C)(C)OC(=O)N1CCC(C(CC1)=O)C | C12H21NO3
